************************************************************************
* auCdl Netlist:
* 
* Library Name:  TIGFET10nm
* Top Cell Name: G4_MAJ3_N3
* View Name:     schematic
* Netlisted on:  Mar  4 11:49:53 2022
************************************************************************

.INCLUDE  ~/TIGFET-10nm-PDK/calibre/tigfet.sp
*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: TIGFET10nm
* Cell Name:    G4_MAJ3_N3
* View Name:    schematic
************************************************************************

.SUBCKT G4_MAJ3_N3 A B C Vdd Vss Z
*.PININFO A:I B:I C:I Z:O Vdd:B Vss:B
XI23 Z A B A A / TIGFET_PCELL_SP15CP15_N2
XI22 Z AI BI AI A / TIGFET_PCELL_SP15CP15_N2
XI20 Z A BI A C / TIGFET_PCELL_SP15CP15_N2
XI21 Z AI B AI C / TIGFET_PCELL_SP15CP15_N2
XI16 AI Vdd A Vdd Vss / TIGFET_PCELL_SP15CP15_N2
XI17 BI Vdd B Vdd Vss / TIGFET_PCELL_SP15CP15_N2
XI18 AI Vss A Vss Vdd / TIGFET_PCELL_SP15CP15_N2
XI19 BI Vss B Vss Vdd / TIGFET_PCELL_SP15CP15_N2
.ENDS

